US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid {3-[(2-hydroxy-ethyl)-methyl-carbamoyl]-1-methyl-1H-pyrazol-4-yl}-amide
According to the general method described in step 5 of example 27, reaction of 2-methylamino-ethanol with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (13%) as amorphous yellow solid.

reactant | 2-methylamino-ethanol | CNCCO | C3H9NO
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid {3-[(2-hydroxy-ethyl)-methyl-carbamoyl]-1-methyl-1H-pyrazol-4-yl}-amide | 13% | OCCN(C(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C)C | C21H24N8O3
